US07235537B2
6-(4-Chloro-2-methyl-phenylamino)-7-fluoro-3-oxazol-5-ylmethyl-3H-benzoimidazole-5-carboxylic acid cyclopropylmethoxy-amide (18ggg)
6-(4-Chloro-2-methyl-phenylamino)-7-fluoro-3-(2-oxo-ethyl)-3H-benzoimidazole-5-carboxylic acid cyclopropylmethoxy-amide (0.020 g, 0.046 mmol) is dissolved in methanol (2 mL). Potassium carbonate (0.013 g, 0.093 mmol) and 1-isocyanomethanesulfonyl-4-methyl-benzene (0.010 g, 0.051 mmol) are added. The reaction mixture is stirred at reflux for 16 hours under N2, then concentrated under reduced pressure. The residue is dissolved in ethyl acetate and poured into a separatory funnel and washed with water and brine. The combined aqueous layers are reextracted with ethyl acetate (2×). The combined ethyl acetate layers are dried (Na2SO4,) and concentrated under reduced pressure. The resulting solid was purified by flash column chromatography (eluting with 15:1 methylene chloride:methanol) to yield 0.011 g (50%) of the desired product. MS APCI (+) m/z 470, 472 (M+, Cl pattern) detected; 1H NMR (400 MHz, CDCl3) δ 10.51 (br s, 1H), 8.07 (s, 1H), 8.02 (s, 1H), 7.89 (s, 1H), 7.23 (s, 1H), 7.15 (d, 1H), 6.92 (dd, 1H), 6.31 (d, 1H), 6.11 (br s, 1H), 5.45 (s, 2H), 3.62 (d, 2H), 2.40 (s, 3H), 0.87 (m, 1H), 0.49 (m, 2H), 0.20 (m, 2H). 19F NMR (376 MHz, CDCl3) −134.54 (s).

reactant | 6-(4-Chloro-2-methyl-phenylamino)-7-fluoro-3-(2-oxo-ethyl)-3H-benzoimidazole-5-carboxylic acid cyclopropylmethoxy-amide | 0.046 mmol, 0.020 g | C1(CC1)CONC(=O)C1=CC2=C(N=CN2CC=O)C(=C1NC1=C(C=C(C=C1)Cl)C)F | C21H20ClFN4O3
reactant | Potassium carbonate | 0.093 mmol, 0.013 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-isocyanomethanesulfonyl-4-methyl-benzene | 0.051 mmol, 0.010 g | [N+](#[C-])CS(=O)(=O)C1=CC=C(C=C1)C | C9H9NO2S
solvent | methanol | 2 mL | CO | CH4O
product | 6-(4-Chloro-2-methyl-phenylamino)-7-fluoro-3-oxazol-5-ylmethyl-3H-benzoimidazole-5-carboxylic acid cyclopropylmethoxy-amide | 0.011 g, 50% | C1(CC1)CONC(=O)C1=CC2=C(N=CN2CC2=CN=CO2)C(=C1NC1=C(C=C(C=C1)Cl)C)F | C23H21ClFN5O3
